US08791132B2
To a degassed solution of 10-methyl-2,3,5,6,7,11c-hexahydro-1H-indolizino[7,8-b]indole (50 mg, 0.22 mmol), potassium phosphate (93 mg, 0.44 mmol), L-proline (2 mg, 0.01 mmol) and Cu(I)iodide (8 mg, 0.04 mmol) in DMF (1 mL) was added 1-(1-bromoprop-1-en-2-yl)-4-fluorobenzene (95 mg, 0.44 mmol). The reaction mixture was stirred at 120° C. for 18 h. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was filtered through Celite. The filtrate was diluted with water (50 mL), extracted with EtOAc (2×50 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by reverse phase HPLC to yield 7-(2-(4-fluorophenyl)prop-1-enyl)-10-methyl-2,3,5,6,7,11c-hexahydro-1H-indolizino[7,8-b]indole. 1H NMR, (CD3OD, TFA salt) δ (ppm): 7.65 (t, 2H), 7.35 (s, 1H), 7.19 (t, 2H), 7.1 (m, 2H), 6.95 (s, 1H), 5.1 (t, 1H), 3.79 (m, 1H), 3.62 (m, 2H), 3.41 (m, 1H), 3.1 (m, 2H), 2.75 (m, 1H), 2.41 (s, 3H), 2.28 (m, 3H), 1.95 (s, 3H). Chiral HPLC provided the enantiomers 194a and 194b.

reactant | 10-methyl-2,3,5,6,7,11c-hexahydro-1H-indolizino[7,8-b]indole | 0.22 mmol, 50 mg | CC1=CC=2C3=C(NC2C=C1)CCN1CCCC13 | C15H18N2
reactant | potassium phosphate | 0.44 mmol, 93 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | L-proline | 0.01 mmol, 2 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 1-(1-bromoprop-1-en-2-yl)-4-fluorobenzene | 0.44 mmol, 95 mg | BrC=C(C)C1=CC=C(C=C1)F | C9H8BrF
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 7-(2-(4-fluorophenyl)prop-1-enyl)-10-methyl-2,3,5,6,7,11c-hexahydro-1H-indolizino[7,8-b]indole | FC1=CC=C(C=C1)C(=CN1C2=C(C=3C=C(C=CC13)C)C1CCCN1CC2)C | C24H25FN2
